US07138425B2
2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydroisoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-aminophenyl)benzoxazole-6-carboxylic acid (70 mg, 0.27 mmol) and 1,2,4-benzenetricarboxylic anhydride (53 mg, 0.27 mmol) the title compound was obtained (34 mg, 29%). 1H NMR (DMSO) δ 8.38(m, 1H), 8.31(m, 2H), 8.06(dd, 1H), 7.92(m, 2H), 7.86(s, 1H), 7.78(m, 3H). MS 429 m/z (M+H)+.

reactant | 2-(3-aminophenyl)benzoxazole-6-carboxylic acid | 0.27 mmol, 70 mg | NC=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O | C14H10N2O3
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.27 mmol, 53 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Carboxy-1,3-dioxo-1,3-dihydroisoindol-2-yl)phenyl]benzoxazole-6-carboxylic acid | C(=O)(O)C=1C=C2C(N(C(C2=CC1)=O)C=1C=C(C=CC1)C=1OC2=C(N1)C=CC(=C2)C(=O)O)=O | C23H12N2O7
